US04713382
A solution of 53 g of N-[3,5-dichlorophenyl]-N'-[2-methylpropyl]thiourea in 200 ml of acetone was heated under reflux. A total of 16 ml of methyl iodide was added dropwise, heating is continued for a further 3 hours after this addition. The reaction mixture was then cooled and the precipitate collected to give 50 g (55.5%) of N-[3,5-dichlorophenyl]-N'-[2-methylpropyl]-carbamimidothioic acid, methyl ester, hydroiodide, m.p. 150° C. Concentration of the mother liquors and recrystallization in ethanol/isopropyl ether afforded a further 20 g of the product. Total yield: 77%.

reactant | N-[3,5-dichlorophenyl]-N'-[2-methylpropyl]thiourea | 53 g | ClC=1C=C(C=C(C1)Cl)NC(=S)NCC(C)C | C11H14Cl2N2S
reactant | methyl iodide | 16 ml | CI | CH3I
solvent | acetone | 200 ml | CC(=O)C | C3H6O
product | N-[3,5-dichlorophenyl]-N'-[2-methylpropyl]-carbamimidothioic acid, methyl ester, hydroiodide | 50 g, 55.5% | I.ClC=1C=C(C=C(C1)Cl)NC(=NCC(C)C)SC | InChI=1S/C12H16Cl2N2S.HI/c1-8(2)7-15-12(17-3)16-11-5-9(13)4-10(14)6-11;/h4-6,8H,7H2,1-3H3,(H,15,16);1H
